Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
BRBPR; with clots
 
Major Surgical or Invasive Procedure:
Colonoscopy
___ mesenteric angiography

 
History of Present Illness:
Patient is a ___ year old male with history of HTN, a. fib on 
chronic anti-coagulation, and per report, diverticulosis who is 
transferred from OSH with BRBPR.  Patient notes bloody bowel 
movements for "weeks".  He denies any other symptoms.  No chest 
pain/pressure, no dyspnea, no pre-syncope/syncope.  No n/v, no 
emesis/hematemesis.  He presented to the OSH on ___ with 
BRBPR.  He received a total of 4 units of PRBCS and one unit of 
FFP in addition to vitamin K.  He was never hemodynamically 
unstable.  A tagged red blood cell scan was obtained yesterday 
and showed active bleeding either in the distal transverse colon 
or splenic flexure area.  He was transferred directly to the 
___ ICU for ___ embolization.
.
Labs at time of transfer were Hct 28.9, INR 1.2.
.
Upon arrival to the ICU, patient reported frequent urges to move 
his bowels.  He denied chest pain/pressure, lightheadedness, 
dyspnea.  Remainder of ROS as noted below.  Had bloody bowel 
movement soon after arrival, comprised of blood clots.
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain.  No dysuria. Denied arthralgias 
or myalgias. 
 
Past Medical History:
HTN
HL
a. fib on warfarin
Type II DM
seronegative inflammatory arthritis
h/o diastolic heart failure
obesity
BPH
h/o recurrent UTIs 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On transfer to ___: 
.
VS:  114/73  HR 110s  97% RA  RR 16  
GA: AOx3, NAD, marked pallor  
HEENT: PERRLA. MMM. no LAD. no JVD. neck supple.  
Cards: PMI palpable at ___ IC space. No RVH. RRR S1/S2 heard. 
no murmurs/gallops/rubs.  
Pulm: CTAB no crackles or wheezes  
Abd: obese, soft, NT, +BS. no g/rt. neg HSM. neg ___ sign.  

Extremities: wwp, no edema. DPs, PTs 2+.  
Skin:  
Neuro/Psych: CNs II-XII intact. ___ strength in U/L extremities. 
DTRs 2+ ___ (biceps, achilles, patellar). sensation and strength 
grossly intact.  cerebellar fxn intact (FTN, HTS). gait 
deferred.
 
Pertinent Results:
Labs at OSH:
WBC 6.2
Hb 9.8
Hct 28.9 (initially 24.8)
plt 141
sodium 143
K 3.8
chloride 112
CO2 27
BUN 13
crea 1.1
trop 0.02
INR 1.2

Labs on admission: 
___ 06:43PM   ___
___ 06:43PM   ___ PTT-24.0 ___
___ 06:43PM   PLT COUNT-205
___ 06:43PM   NEUTS-73.4* ___ MONOS-4.1 EOS-4.3* 
BASOS-0.2
___ 06:43PM   WBC-7.5 RBC-3.69* HGB-9.8* HCT-31.3* MCV-85 
MCH-26.6* MCHC-31.3 RDW-15.8*
___ 06:43PM   ALBUMIN-3.1* CALCIUM-8.3* PHOSPHATE-2.0* 
MAGNESIUM-2.0
___ 06:43PM   ALT(SGPT)-10 AST(SGOT)-20 ALK PHOS-118 TOT 
BILI-0.5
___ 06:43PM   estGFR-Using this
___ 06:43PM   GLUCOSE-152* UREA N-13 CREAT-1.2 SODIUM-144 
POTASSIUM-4.1 CHLORIDE-110* TOTAL CO2-28 ANION GAP-10
___ 09:40PM   ___
___ 09:40PM   ___ PTT-24.0 ___
___ 09:40PM   PLT COUNT-185
___ 09:40PM   WBC-7.4 RBC-3.50* HGB-9.9* HCT-29.7* MCV-85 
MCH-28.2 MCHC-33.2 RDW-15.6*
___ 09:40PM   CALCIUM-7.8* MAGNESIUM-1.9
___ 09:40PM   SODIUM-142 POTASSIUM-4.1 CHLORIDE-111*

ECG  Atrial fibrillation with a mean ventricular rate of 106. 
Right bundle branch block. Diffuse non-diagnostic repolarization 
abnormalities. No previous tracing available for comparison 

Colonoscopy:
Polyps in the ascending colon
Polyp in the hepatic flexure
Polyps in the transverse colon
Polyps in the descending colon
Friability, erythema and congestion in the 40 cm from anal verge 
compatible with ischemic colitis
Diverticulosis of the cecum, ascending colon, transverse colon 
and descending colon
Polypectomy not performed in the setting of GIB.
Otherwise normal colonoscopy to cecum

Labs on discharge: 
___ 06:24AM BLOOD WBC-9.1 RBC-3.13* Hgb-8.7* Hct-27.1* 
MCV-87 MCH-27.8 MCHC-32.1 RDW-16.5* Plt ___
___ 06:24AM BLOOD ___
___:24AM BLOOD Glucose-168* UreaN-7 Creat-1.1 Na-139 
K-4.0 Cl-111* HCO3-___ AnGap-10
___ 06:24AM BLOOD Calcium-7.9* Phos-2.5* Mg-2.1
URINE CULTURE (Final ___:    NO GROWTH
 
Brief Hospital Course:
___ year old male with history of HTN, HL, a. fib on chronic 
anti-coagulation with BRBPR.
.
# BRBPR- The patient has a history of diverticular bleeding in 
___. He was initially admitted to ___ in 
___ with a Hct of 24.8 and INR of 1.5 and reports of BRBPR 
x wks. He was hemodynamically stable. He continued to pass clots 
per rectum and was transfused with 4U PRBCs and his INR was 
reversed. A tagged red cell scan was performed, which showed 
active bleeding. Surgery was consulted at the OSH and determined 
the patient was not a surgical candidate so the patient was 
transferred to ___ for ___ embolization. At ___, the patient 
continued to pass BRBPR (clots) and he was transfused an 
additional unit. ___ took the patient for possible embolization 
but did not see any active bleeding so no intervention was 
performed. GI was consulted and performed a colonoscopy which 
did not show any active areas of hemorrhage, but did show 
multiple polyps, diverticulosis, and possible ischemic colitis. 
GI recommended an outpatient colonoscopy. The patient remained 
hemodynamically stable with a stable hematocrit during his 
entire ___ admission. The patient was instructed to follow-up 
with his PCP for GI referral for colonoscopy. On the day of d/c, 
the patient's Hct was 27.1 with INR 1.4. 
.
# A. fib - The patient's home medication verapamil was stopped 
out of concern for GI bleeding and hypotension; metoprolol 50 mg 
TID was continued. On ___, the patient had an episode of Atrial 
fibrillation with RVR and required 10 mg IV Diltiazem pushed. He 
was started on 40 mg PO Verapamil TID. He was discharged on his 
home medication Verapamil 180 mg SR qd. The patient was 
instructed and the rehab facility was notified that he should 
restart coumadin on ___. The patient's daughter, also his 
health care proxy, was made aware of the risks and benefits of 
restarting anticoagulation. She expressed interest in speaking 
with the patient's PCP about the issue. 
.
# HTN- Anti-hypertensives were intially held but were restarted 
during the patient's admission. His pressures remained stable 
during the admission. 
.
# HL- The patient was continued on his home statin. 
.
# Recurrent UTIs - The patient has a history of recurrent UTIs 
associated with his chronic in-dwelling foley catheter, which he 
has had for ___ years. His foley was changed in the hospital and 
he reports it is changed at home each month. The patient was 
intially started on antibiotics at the OSH for his UTI but these 
were stopped because the patient was asymptomatic and there is 
concern for propagating resistant infections. 
.
#IDDM: The patient was kept on sliding scale insulin during this 
admission. His insulin requirements were much lower than his 
listed home doses of Lantus 16U qam, and 19U qpm. He was 
discharged on 10 U qpm but may require up-titration depending on 
his blood sugars. 
.
The patient was maintained on heparin SC BID for DVT 
prophylaxis. His code status was DNR/DNI. Communication was with 
the patient and his wife, daughter - his health care proxy, and 
son-in-law. Physical therapy worked with the patient and felt it 
was in his best interest to go to rehab to regain strength prior 
to going home.  

 
Medications on Admission:
ASA 81 mg daily
furosemide 80 mg daily
hydroxychloroquine 200 mg daily
Novolog
metoprolol tartrate
Zocor 80 mg daily
verapamil SR 180 mg daily
lorazepam 0.5 mg TID
Lantus 16 units QAM, 19 units QPM

medications at time of transfer:
ceftriaxone 1 gram IV Q24
Nexium 40 mg IV Q24
metoprolol tartrate 5 mg IV Q4
Micatin powder BID  
.  
 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Ativan 0.5 mg Tablet Sig: 0.5 Tablet PO at bedtime as needed 
for insomnia.  
3. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
5. Lantus 100 unit/mL Cartridge Sig: Ten (10) Units Subcutaneous 
at bedtime.  
6. Verapamil 180 mg Tablet Extended Rel 24 hr Sig: One (1) 
Tablet Extended Rel 24 hr PO once a day.  
7. Humalog 100 unit/mL Cartridge Sig: ___ Units Subcutaneous 
qachs: Sliding Scale Insulin.  
8. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Lower GI bleed
Diverticulosis, Colon Polyps, possible ischemic colitis
Atrial Fibrillation w/ rapid ventricular response

Secondary: 
HTN  
HL  
Afib  
Type II DM  
seronegative inflammatory arthritis  
h/o diastolic heart failure  
obesity  
BPH  
h/o recurrent UTIs  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___. You were diagnosed with a lower 
Gastrointestinal bleed, for which you were intially treated at 
___ in ___ before transfer to ___. 
Your blood pressure was never dangerously low, but you were 
transfused with 5 units of blood and your blood-thinning 
medication (Coumadin) was stopped and its effects were reversed.

You had a tagged red cell scan at ___, which 
indicated active bleeding and since it was felt that surgery was 
not in your best interest, you were transferred to ___ for 
further management. Here, our radiologists did a study and did 
not see evidence of active bleeding. Because you did continue to 
have lower GI bleeding w/ clots, our gastroenterology team was 
consulted; they performed a colonoscopy, which showed evidence 
of diverticulosis, multiple small colon polyps, and possible 
evidence of ischemic colitis. They recommended a repeat 
colonoscopy as an outpatient. Your red blood cell count remained 
stable during your entire admission at ___. 

On ___, you had a very fast heart rate due to your atrial 
fibrillation. You were placed back on your home medication 
verapamil and also received IV medication to help slow your 
heart rate. 

We made the following changes to your medications: 
We STOPPED coumadin due to your GI bleeding; further guidance 
regarding this medication is discussed below
We STOPPED Plaquenil as it was not clear whether you had an 
indication for this treatment and did not think you were taking 
this at home
We CHANGED your Lasix from 80 mg once per day to 40 mg once per 
day; you should weigh yourself daily and if your weight 
increases more than 3 lbs over 2 days, you may need to increase 
this dose back to 80 mg once per day
We CHANGED your Lantus dose from 16 U in the morning and 19U in 
the evening to 10 U in the evening- in addition to sliding scale 
insulin; depending on your blood sugar checks, your Lantus dose 
may need to be increased
We continued your Aspirin 81 mg each day, Ativan 0.5 mg each 
night as needed for sleep, Verapamil 180 mg SR each morning, 
Simvastatin 80 mg each day and Metoprolol 50 mg three times per 
day
We STOPPED your Novolog 
.
*You should restart your coumadin on ___ at 5 mg per day. You 
should have your INR routinely checked in addition to your CBC. 
Because being on coumadin does increase your risk for GI bleeds, 
any concerns regarding re-starting this medication should be 
discussed with your primary care doctor and your daughter. We 
spoke with your daughter and she was made aware of the risks and 
benefits of restarting coumadin. It may also be beneficial for 
your goal INR to be from 1.5 to 2.5 instead of 2 to 3.*

You will see a doctor at the rehab facility. When you are 
discharged from rehab, you should make an appointment with your 
PCP, ___ and you should have him help refer you 
to a GI doctor for ___ colonoscopy. 

 
Followup Instructions:
___